US07897595B2
A mixture of 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (490 mg, 1.80 mmol), tBuNO2 (315 μl, 2.70 mmol), CuBr2 (481 mg, 2.20 mmol) and MeCN (10 ml) was heated to 70° C. for 5 h. The reaction mixture was parted between H2O and EtOAc, the organic layer was dried and then concentrated in vacuo. The resulting residue was purified by column chromatography to yield 100 mg (16%) of 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 8.46 (s, 1H), 7.64 (s, 1H), 4.25-3.20 (m, 7H), 1.39 (d, 1.3H), 1.35 (d, 1.65H) ppm. A mixture of 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (90 mg, 267 μmol), K2CO3 (100 mg), MeOH (6 ml) and H2O (1 ml) was stirred for 16 h at room temprature. The reaction mixture was parted between aq. NaHCO3 and DCM, the organic layer was dried and then concentrated in vacuo. The resulting residue was purified by column chromatography to yield 25.0 mg (39%) of 3-bromo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (MeOH-d4) δ 8.49 (s, 1H), 7.90 (s, 1H), 3.55-3.40 (m, 3H), 3.37-3.27 (m, 2H), 3.20 (dd, 1H), 3.11 (dd, 1H), 1.48 (d, 3H) ppm.

reactant | 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 267 μmol, 90 mg | BrC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1 | C12H12BrF3N2O
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 6 ml | CO | CH4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | H2O | 1 ml | O | H2O
product | 3-bromo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 25.0 mg, 39% | BrC1=CC2=C(CCNCC2C)N=C1 | C10H13BrN2
